US07202245B2
4-Benzylamino-8-fluoro-2H-[1,2,4]triazolo[4,3-a]quinoxaline-1-one
To a solution of 500 mg of 4-chloro-8-fluoro-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline in DMF (6.0 mL) was added 637 mg of benzylamine. This solution was stirred at room temperature for 18 hrs. and then diluted with EtOAc and washed with water and saturated lithium chloride. The extracts were dried over sodium sulfate, filtered, and concentrated and the residue was separated by silica gel chromatography to give a yellow solid. This material was dissolved in a 1:1.5 mixture of 48% HBr/AcOH, and refluxed for 12 hrs. The reaction mixture was concentrated and the residue was recrystallized from MeOH to afford the title compound as a yellow solid. MS (M+H)+=310.0.

reactant | 4-chloro-8-fluoro-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline | 500 mg | ClC=1C=2N(C3=CC(=CC=C3N1)F)C(=NN2)OC | C10H6ClFN4O
reactant | benzylamine | 637 mg | C(C1=CC=CC=C1)N | C7H9N
solvent | DMF | 6.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HBr AcOH | Br.CC(=O)O
product | 4-Benzylamino-8-fluoro-2H-[1,2,4]triazolo[4,3-a]quinoxaline-1-one | C(C1=CC=CC=C1)NC=1C=2N(C3=CC(=CC=C3N1)F)C(NN2)=O | C16H12FN5O
